US04829071
5-Amino-2-[N-(5-aminobenzofur-2-ylmethyl)-N-methylamino]indane
A solution of 2-[N-methyl-N-(5-nitrobenzofur-2-ylmethyl)amino]-5-nitroindane (0.33 g) in ethanol (25 ml) containing 5% Pd/C (0.03 g) was stirred under a hydrogen atmosphere [206.8 kPa (30 p.s.i.)] for 3 hours at room temperature. The catalyst was then removed by filtration and the filtrate evaporated in vacuo to afford the title compound as a gum, yield 0.3 g, which was used directly without further purification.

reactant | 2-[N-methyl-N-(5-nitrobenzofur-2-ylmethyl)amino]-5-nitroindane | 0.33 g | CN(CC=1OC2=C(C1)C=C(C=C2)[N+](=O)[O-])C2CC1=CC=C(C=C1C2)[N+](=O)[O-] | C19H17N3O5
solvent | ethanol | 25 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.03 g | [Pd] | Pd
product | 5-Amino-2-[N-(5-aminobenzofur-2-ylmethyl)-N-methylamino]indane | NC=1C=C2CC(CC2=CC1)N(C)CC=1OC2=C(C1)C=C(C=C2)N | C19H21N3O
